US09403798B2
4-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
4-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2-ol (3.32 g, 10.9 mmol) synthesized in Reference Synthesis Example 345 and 2-(chloromethyl)-5-(trifluoromethyl)thiophene were used to obtain the title compound (2.36 g, yield 46%) by synthesis in a similar manner to Reference Synthesis Example 16.

reactant | 4-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2-ol | 10.9 mmol, 3.32 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C1=NC(=NC=N1)O)C | C14H21BN4O3
reactant | 2-(chloromethyl)-5-(trifluoromethyl)thiophene | ClCC=1SC(=CC1)C(F)(F)F | C6H4ClF3S
product | 4-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 2.36 g, yield 46% | CC1(OB(OC1(C)C)C1=CCN(CC1)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O)C | C20H24BF3N4O3S
